US04049417
Preparation of 1,5-Di-(4-Isopropylcyclohexyl)-3-pentanone
3-(4-Isopropylcyclohexyl)propionic acid (39.7 g., 0.20 mole) and iron (hydrogen reduced, 6.15 g., 0.11 mole) is heated for 1.5 hours at 195° C. under a nitrogen atmosphere. After that time, the temperature is increased to 290° C. and maintained at that temperature for three hours. The cooled reaction mass is extracted well with ether, filtered through Celite, and the ethereal extracts concentrated under vacuum. The residue is stripped under vacuum to leave the product, 17.3 g. (51%).

reactant | 3-(4-Isopropylcyclohexyl)propionic acid | 0.20 mole, 39.7 g | C(C)(C)C1CCC(CC1)CCC(=O)O | C12H22O2
catalyst | iron | 0.11 mole, 6.15 g | [Fe] | Fe
product | 1,5-Di-(4-Isopropylcyclohexyl)-3-pentanone | C(C)(C)C1CCC(CC1)CCC(CCC1CCC(CC1)C(C)C)=O | C23H42O
